US06660753B2
After bubbling argon into a solution of methyl 3-(methoxymethyl)-5-iodobenzoate (316 mg, 1.03 mmol) in N,N-dimethylformamide (3 mL) for 5 minutes, zinc cyanide (133 mg, 1.13 mmol) and tetrakis(triphenylphosphine)palladium(0) (119 mg, 0.010 mmol) were added. The reaction mixture was heated at 80° C. for 15 minutes under argon. Following cooling, the reaction mixture was diluted with ethyl acetate and then the precipitate that formed was removed by filtration. The filtrate was washed with water and saturated brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Silica gel chromatography using 10-30% ethyl acetate/hexanes afforded 184 mg (86%) of methyl 3-cyano-5-(methoxymethyl)benzoate as a colorless oil.

reactant | methyl 3-(methoxymethyl)-5-iodobenzoate | 1.03 mmol, 316 mg | COCC=1C=C(C(=O)OC)C=C(C1)I | C10H11IO3
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 1.13 mmol, 133 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.010 mmol, 119 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-cyano-5-(methoxymethyl)benzoate | 184 mg, 86% | C(#N)C=1C=C(C(=O)OC)C=C(C1)COC | C11H11NO3
